US05494887
21. Preparation of 4-Hydrazino-2-methylthiothiopheno[3,2-d]pyrimidine
4-Chloro-2-methylthiothiopheno[3,2-d]pyrimidine (15.26 g, 70.4 mmol) was mixed with 400 mL of ethanol and then 7.2 mL (148 mmol) of hydrazine hydrate was added with stirring at ambient temperature and the mixture was allowed to stir overnight. The solid materials present were recovered by filtration and the filtrate was evaporated to dryness under reduced pressure to obtain additional solid material. All of the solids were combined and mixed vigorously with a mixture of 500 mL of dichloromethane and 500 mL of water for 6 hours. The solids present were recovered by filtration and dried to obtain 13.9 g of the title compound as a slightly yellow solid melting at 242°-244° C. The proton NMR spectrum was consistent with the assigned structure.

reactant | 4-Chloro-2-methylthiothiopheno[3,2-d]pyrimidine | 70.4 mmol, 15.26 g | ClC=1C2=C(N=C(N1)SC)C=CS2 | C7H5ClN2S2
reactant | ethanol | 400 mL | C(C)O | C2H6O
reactant | hydrazine hydrate | 148 mmol, 7.2 mL | O.NN
reactant | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | water | 500 mL | O | H2O
product | 4-Hydrazino-2-methylthiothiopheno[3,2-d]pyrimidine | 13.9 g | N(N)C=1C2=C(N=C(N1)SC)C=CS2 | C7H8N4S2
